US05866724
Into a 100 ml four-necked flask were charged 5.86 g of above-obtained 2,6-bis(4-hydroxy-2,5-dimethylbenzyl)-3,4-dimethylphenol having a purity of 95.7%, 2.16 g of sodium hydroxide, 21.6 g of water and 2.16 g of tetrahydrofuran and they were completely dissolved. While stirring at 40° C., 7.30 g of 37% formaldehyde was added dropwise thereto over 1 hour, and the reaction was conducted for one more hour. After completionof reaction, 3 g of 90% aqueous acetic acid solution was added for neutralization, and then the mixture was cooled to 25° C. and filtered. The filter cake was dissolved in a mixed solvent consisting of 100 g of ethyl acetate and 100 g of toluene. The resulting solution was washed with water and the oil phase was concentrated. To the concentrated mass, 100 g of toluene was added, and the mixture was cooled to 20°C., and then filtered. The filter cake was rinsed with 100 g of toluene anddried a whole day and night under reduced pressure at 45° C. to obtain 6.76 g of 2,6-bis(4-hydroxy-3-hydroxymethyl-2,5-dimethylbenzyl)-3,4-dimethylphenol.

reactant | 2,6-bis(4-hydroxy-2,5-dimethylbenzyl)-3,4-dimethylphenol | 5.86 g | OC1=CC(=C(CC2=C(C(=CC(=C2C)C)CC2=C(C=C(C(=C2)C)O)C)O)C=C1C)C | C26H30O3
reactant | sodium hydroxide | 2.16 g | [OH-].[Na+]
reactant | water | 21.6 g | O | H2O
reactant | formaldehyde | 7.30 g | C=O | CH2O
reactant | acetic acid | 3 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.16 g | O1CCCC1 | C4H8O
product | 2,6-bis(4-hydroxy-3-hydroxymethyl-2,5-dimethylbenzyl)-3,4-dimethylphenol | 6.76 g | OC1=C(C(=C(CC2=C(C(=CC(=C2C)C)CC2=C(C(=C(C(=C2)C)O)CO)C)O)C=C1C)C)CO | C28H34O5
